US06015818
3-[N-[(E)-3-(6-Acetamidopyridin-3-yl)acryloylglycyl]-N-methylamino]-1-hydroxymethyl-2,6-dichlorobenzene (5.36 g) was dissolved in N,N-dimethylformamide (30 ml) under nitrogen atmosphere, triethylamine (2.4 g) and methanesulfonyl chloride (1.3 ml) were added to the mixture at 0° C., and the mixture was stirred at 0° C. for 1 hour and at ambient temperature for 18 hours. The reaction mixture was poured into water and extracted with chloroform. The organic layer was separated, washed with saturated aqueous solution of sodium hydrogen carbonate and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was washed with ethyl acetate to give 3-[N-[(E)-3-(6-acetamidopyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyl chloride (5-1 g) as a powder.

reactant | 3-[N-[(E)-3-(6-Acetamidopyridin-3-yl)acryloylglycyl]-N-methylamino]-1-hydroxymethyl-2,6-dichlorobenzene | 5.36 g | C(C)(=O)NC1=CC=C(C=N1)/C=C/C(=O)NCC(=O)N(C)C=1C(=C(C(=CC1)Cl)CO)Cl | C20H20Cl2N4O4
reactant | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-[N-[(E)-3-(6-acetamidopyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyl chloride | 5-1 g | C(C)(=O)NC1=CC=C(C=N1)/C=C/C(=O)NCC(=O)N(C)C=1C(=C(CCl)C(=CC1)Cl)Cl | C20H19Cl3N4O3
